US08097610B2
Preparation of 6-chloro-2-[4-(2-chloroethyl)-4-ethyl piperidine-1-yl]benzothiazole
A mixture of 2-[1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]ethanol (764 mg) and thionyl chloride (4 mL) were stirred at 60° C. for 1.5 hours. To the reaction solution was added ice and extracted with ethyl acetate. The organic layer was washed with sodium hydrogencarbonate and brine and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (739 mg). Yield: 92%.

reactant | 2-[1-(6-chlorobenzothiazole-2-yl)-4-ethyl piperidine-4-yl]ethanol | 764 mg | ClC1=CC2=C(N=C(S2)N2CCC(CC2)(CC)CCO)C=C1 | C16H21ClN2OS
reactant | thionyl chloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
product | 6-chloro-2-[4-(2-chloroethyl)-4-ethyl piperidine-1-yl]benzothiazole | 739 mg, Yield: 92% | ClC1=CC2=C(N=C(S2)N2CCC(CC2)(CC)CCCl)C=C1 | C16H20Cl2N2S
